US04342771
5-Hydroxy-5-(2-benzthiazolyl)-2,4,6-(1H,3H,5H)pyrimidinetrione
By the procedure of Example 38, benzthiazole (2.7 g., 0.02 moles) was converted to its 2-lithio derivative and then reacted with anhydrous alloxan to yield title product, initially isolated as an oil. The latter was crystallized from ether-hexane [2.2 g.; Rf 0.55 (1:1 ethyl acetate:hexane/5% acetic acid)].

reactant | benzthiazole | 0.02 moles, 2.7 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | alloxan | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
product | 5-Hydroxy-5-(2-benzthiazolyl)-2,4,6-(1H,3H,5H)pyrimidinetrione | OC1(C(NC(NC1=O)=O)=O)C=1SC2=C(N1)C=CC=C2 | C11H7N3O4S
